* Z:\non-work-projects\dummy-load\ltspice\TL431ref1.asc
V1 N001 0 PWL(0 6 1 12)
XU1 0 vref N002 TL431
R1 N001 vref 470
R2 N002 0 3.32k
R3 vref N002 2.74k
R4 vref 0 4k
.tran 0 10 0
.include tl431.lib
* 4.55V
* ~10mA available
.backanno
.end
