* PSpice Model Editor - Version 16.6.0

*$
* TMP6131LPGM
*****************************************************************************
* (C) Copyright 2021 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: TMP6131LPGM
* Date: 10MAY2021
* Model Type: NA
* Simulator: PSPICE
* Simulator Version: 16.6-S084
* EVM Order Number: NA
* EVM Users Guide: NA
* Datasheet: SBOS921E –DEC 2018–REVISED FEB 2020
* Topologies Supported: NA
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
* 
* A. The following features have been modeled
*	1. 	Linear resistance change across temperature
*	2. 	10-kOhm nominal resistance at 25°C (R25)
*	3. 	Resistance vs. Ambient Temperature Using Multiple Bias Currents
*	4. 	Resistance vs. Ambient Temperature Using Multiple Bias Voltages
*	5. 	Supply Dependence Resistance vs. Bias Current
*	6. 	Supply Dependence vs. Bias Voltage
*
* B. Features have not been modelled
*	1. TCR vs. Sense Currents (ISNS) and Sense Voltages(VSNS) and thermal 
*      characteristics of the part have not been modeled.
*
*****************************************************************************
.SUBCKT TMP6131LPGM 1 2  
E_E1         N00825 1 VALUE {
+  ((2.814749767E+15*(V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865))-
+  2.283465749E+12*(V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865))+
+  7.615329528E+15*(V(N00865)*V(N00865)*V(N00865)*V(N00865)) -
+  5.967170118E+12*(V(N00865)*V(N00865)*V(N00865)) +
+  1.121068512E+09*(V(N00865)*V(N00865)) + 8.111909498E+05*V(N00865) +
+  8.382930859E+03) +
+  (-8.796093022E+12*(V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865))+
+  1.314878468E+10*(V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865))-
+  3.875620156E+14*(V(N00865)*V(N00865)*V(N00865)*V(N00865)) +
+  3.005390020E+11*(V(N00865)*V(N00865)*V(N00865)) -
+  7.924379707E+07*(V(N00865)*V(N00865)) + 1.795520851E+04*V(N00865) +
+  5.183709542E+01)*{temp} +
+  (-3.435973837E+10*(V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865))+
+  7.652826415E+07*(V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865))-
+  2.342680045E+12*(V(N00865)*V(N00865)*V(N00865)*V(N00865)) +
+  1.881560011E+09*(V(N00865)*V(N00865)*V(N00865)) -
+  5.208709922E+05*(V(N00865)*V(N00865)) + 1.080419987E+02*V(N00865) +
+  1.327181570E-01)*{temp*temp} +
+  (4.680843264E+09*(V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865))-
+  5.661833298E+06*(V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865))+
+  1.533260026E+11*(V(N00865)*V(N00865)*V(N00865)*V(N00865)) -
+  1.160760006E+08*(V(N00865)*V(N00865)*V(N00865)) +
+  2.755220007E+04*(V(N00865)*V(N00865)) - 2.346790005E+00*V(N00865) +
+  2.989460001E-04)*{temp*temp*temp} +
+  (-3.324313600E+07*(V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865))+
+  4.086929408E+04*(V(N00865)*V(N00865)*V(N00865)*V(N00865)*V(N00865))-
+  1.097090019E+09*(V(N00865)*V(N00865)*V(N00865)*V(N00865)) +
+  8.340020042E+05*(V(N00865)*V(N00865)*V(N00865)) -
+  1.999650004E+02*(V(N00865)*V(N00865)) + 1.878230002E-02*V(N00865) -
+  9.727760002E-07)*{temp*temp*temp*temp}+({temp}*0.57)+(
+ {temp}*(-1.55e-6)/V(N00865)))*V(N00865) }
X_H1    2 N00825 N00865 0 TMP6131LPGM_MODEL_H1 
.ENDS TMP6131LPGM
*$
.subckt TMP6131LPGM_MODEL_H1 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ends TMP6131LPGM_MODEL_H1
*$
