* \\vmware-host\Shared Folders\non-work-projects\dummy-load\ltspice\darlington-bjt-high-side-mes.asc
V1 RAW 0 60
V3 VCC 0 12
R3 N013 0 1
V2 -VCC 0 0
V5 ref 0 2.4
L1 N001 N002 3µ
R1 neg N013 1k
C2 N011 0 2.2µ
R5 N006 N011 3.3
C1 N008 N007 220p
R2 N012 N013 47
Q3 N006 N010 N012 0 2SC5866
Q1 N006 N012 N013 0 2SCR583D3
R4 N002 N003 0.1
R6 N008 N010 10k
V6 vOffset 0 8
V7 N001 0 PULSE(0 30 15m 40u 40u 10m 1000)
V8 V1 0 0.2
XU2 pos neg VCC -VCC N008 TL082
V9 pos ref 10m
R7 N007 neg 1
R8 N013 VCC 1k
R9 N003 N006 0.215
XU1 N006 N004 N003 N009 N005 TLV9102
R10 N009 0 10k
D1 N009 N003 UMZ5_1N
M1 sense N005 N003 N003 PMOS
R11 N004 N003 100
R12 sense 0 100
.model D D
.lib C:\Users\Igor\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Igor\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Igor\AppData\Local\LTspice\lib\cmp\standard.mos
.inc LM358.LIB
.tran 30m
.inc TL082.LIB
* on power on\nwhen ref=0\noffsets opAmp down
.inc TLV9102.LIB
.backanno
.end
