* Z:\non-work-projects\dummy-load\ltspice\fan2.asc
V2 vcc5 0 5
XU1 N002 real-temp vcc5 0 out LM393
R2 N002 temp-ref 1k
R4 out N002 33k
V1 temp-ref 0 2.45
R5 vcc5 out 10k
R_FAN raw N001 40
D1 N001 raw D
M1 N001 N003 0 0 2N7002
V3 v-ref 0 4.55
V4 raw 0 7
V5 real-temp 0 PWL(0 2 1 3 2 2)
Q1 N003 out 0 0 2N2222
R1 vcc5 N003 10k
.model D D
.lib C:\Users\Igor\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Igor\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Igor\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 2
.lib LM393.lib
* 2.09V ~0C\n2.90V ~120C
* 2.38V ~40C\n2.52V ~60C
.backanno
.end
