* Z:\non-work-projects\dummy-load\ltspice\temp-measurement-temp.asc
V2 v-ref 0 4.55
XU2 N004 N002 vcc 0 volt-divider-scaled LM358
R6 volt-divider-scaled N002 51k
R7 N004 N003 4.7k
R8 N002 N001 4.7k
R9 0 N004 51k
V1 tempV 0 2.275
V3 vcc 0 7
XU3 tempV N003 vcc 0 N003 LM358
R12 N001 0 10k
R13 v-ref N001 10k
.tran 10m
.lib LM358.lib
* ~2.275V
* 2.09V ~0C\n2.90V ~120C
.backanno
.end
