* Z:\non-work-projects\dummy-load\ltspice\temp-measurement.asc
V2 v-ref 0 4.55
XU2 N005 N002 vcc 0 volt-divider-scaled LM358
R6 volt-divider-scaled N002 51k
R7 N005 N003 4.7k
R8 N002 N001 4.7k
R9 0 N005 51k
R10 N004 0 R=1k*(0.0002*temp*temp+0.0537*temp+8.5256)
R11 v-ref N004 10k
V1 2V 0 2
V3 vcc 0 7
XU3 N004 N003 vcc 0 N003 LM358
R12 N001 0 10k
R13 v-ref N001 10k
.dc temp 0 120 1
* ~2.275V
* 2.09V ~0C\n2.90V ~120C
* 2.09V ~0C\n2.90V ~120C
.lib LM358.lib
.backanno
.end
